US07476741B2
4-(3-Bromo-4,5-dimethoxyphenyl)-7-dimethylamino-2-methoxy-chroman
A mixture of [4-(3-bromo-4,5-dimethoxyphenyl)-2-morpholin-4-yl-chroman-7-yl]-dimethyl-amine (10 mg; 0.021 mmol) and p-toluene sulphonic acid (8 mg) in methanol (1 ml) was stirred overnight at room temperature. The mixture was cooled to 0° C. Acetyl chloride (10 μl) was added and the reaction was stirred at room temperature for 0.5 h. TLC showed formation of product. Another 10 μl of acetyl chloride was added at 0° C., and the mixture was stirred for 0.5 h at room temperature. It was neutralized with saturated sodium bicarbonate and extracted with dichloromethane. The extract was washed with saturated sodium chloride solution, dried and evaporated. The title compound was obtained by passing the crude product through a bond-elute (hexane:ethyl acetate=9:1 as eluent) (yield: 51%). 1H NMR (acetone-d6): 7.00, 6.99, 6.97 and 6.93 (d each, J=1.8 Hz; 2H), 6.54 (t, J=9.6 Hz; 1H), 6.28-6.31 (two doublets overlapped, J=8.5 Hz; fine splitting J=2.2 Hz; 1H), 6.22-6.23 (two doublets, J=3.3 Hz; 1H), 5.18 (t, J=2.5 Hz) and 5.12 (dd, J=2.4, 7.8 Hz) (1H), 4.08-4.15 (m, 1H), 3.87, 3.84, 3.80 and 3.79, (s each, 6H), 3.53 and 3.47 (s each, 3H), 2.91 and 2.90 (s each, 6H), 2.29-2.35 (m) and 1.98-2.19 (m, overlapping with acetone signal) (2H).

reactant | [4-(3-bromo-4,5-dimethoxyphenyl)-2-morpholin-4-yl-chroman-7-yl]-dimethyl-amine | 0.021 mmol, 10 mg | BrC=1C=C(C=C(C1OC)OC)C1CC(OC2=CC(=CC=C12)N(C)C)N1CCOCC1 | C23H29BrN2O4
reactant | p-toluene sulphonic acid | 8 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Acetyl chloride | 10 μl | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 10 μl | C(C)(=O)Cl | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 1 ml | CO | CH4O
product | 4-(3-Bromo-4,5-dimethoxyphenyl)-7-dimethylamino-2-methoxy-chroman | yield: 51% | BrC=1C=C(C=C(C1OC)OC)C1CC(OC2=CC(=CC=C12)N(C)C)OC | C20H24BrNO4
